US05658491
Preparation of 5-Octyl-2-[4-(4-(6-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4,5,5,6,6-decafluorohexyloxy)butoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (1.01 g, 3.56 mmol) and 4-(6-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4,5,5,6,6-decafluorohexyloxy)-1-bromobutane (3.07 g, 4.0 mmol; prepared by combining 1,4-dibromobutane and 2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4,5,5,6,6-decafluorohexanol). The resulting crude product was isolated and further purified essentially as described in Example 3, eluting with 15 volume percent ethyl acetate/hexane, to yield 2.3 g of purified product.

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 3.56 mmol, 1.01 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 4-(6-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4,5,5,6,6-decafluorohexyloxy)-1-bromobutane | 4.0 mmol, 3.07 g | FC(C(C(OC(C(OC(C(C(C(C(COCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C16H10BrF23O3
product | 5-Octyl-2-[4-(4-(6-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4,5,5,6,6-decafluorohexyloxy)butoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCOCC(C(C(C(C(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C34H33F23N2O4
